US08404684B2
AC4) 4-Methyl-5-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-ylamine
Thiourea (2.7 g, 35 mmol) is added to a stirred solution of 1-bromo-1-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one (AC3) in ethanol (100 ml) at 60° C. After 30 minutes the reaction is allowed to cool to room temperature. After standing for 18 hours the hydrobromide salt of the titled compound is removed by filtration and washed with diethyl ether. The product is dissolved in water and 2M sodium hydroxide is added to precipitate the titled compound as the free base.

reactant | Thiourea | 35 mmol, 2.7 g | NC(=S)N | CH4N2S
reactant | 1-bromo-1-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-propan-2-one | BrC(C(C)=O)C1=NC(=NC(=C1)C)SC | C9H11BrN2OS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-Methyl-5-(6-methyl-2-methylsulfanyl-pyrimidin-4-yl)-thiazol-2-ylamine | CC=1N=C(SC1C1=NC(=NC(=C1)C)SC)N | C10H12N4S2
